US05434161
(Imidazo[1,2-a]pyridine-8-carboxylic acid, monohydrochloride) Procedure
Using 2-aminonicotinic acid (14.1 g, 0.102 mol) and chloroacetaldehyde [45% aqueous solution (8.6 g, 0.11 mol)], the same procedure as described above in example C was used. After workup 17.5 g (88%) of the title compound, m.p. 299°-300° C. (decomp), was isolated.

reactant | 2-aminonicotinic acid | 0.102 mol, 14.1 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | chloroacetaldehyde | 0.11 mol, 8.6 g | ClCC=O | C2H3ClO
product | Imidazo[1,2-a]pyridine-8-carboxylic acid, monohydrochloride | 17.5 g, 88% | Cl.N=1C=CN2C1C(=CC=C2)C(=O)O | InChI=1S/C8H6N2O2.ClH/c11-8(12)6-2-1-4-10-5-3-9-7(6)10;/h1-5H,(H,11,12);1H
